US04698340
To a solution of methyl mercaptan-DMF solution (methylmercaptan 66 g/DMF 306 g) (3.8 ml) and methyl 4-(2-chloro-5-nitrophenyl)-6-methyl-2-phenyl-5-pyrimidinecarboxylate (1.5 g) in tetrahydrofuran (25 ml) was added and the mixture was stirred for 3 hours at ambient temperature. The reaction mixture was evaporated in vacuo and the residue was dissolved in a mixture of water (50 ml) and ethyl acetate (100 ml). The organic layer was washed with a saturated aqueous solution of sodium chloride and dried over magnesium sulfate. The solvent was distilled off to give a residue, which was chromatographed on silicagel eluting with a mixture of n-hexane and ethyl acetate (10:1). The fractions containing the desired product were combined and concentrated in vacuo. The crystalline residue was recrystallized from n-hexane to afford methyl 6-methyl-4-(2-methylthio-5-nitrophenyl)-2-phenyl-5-pyrimidinecarboxylate (0.2 g).

reactant | methyl mercaptan DMF | 3.8 ml, 66 g | CS.CN(C)C=O
reactant | methyl 4-(2-chloro-5-nitrophenyl)-6-methyl-2-phenyl-5-pyrimidinecarboxylate | 1.5 g | ClC1=C(C=C(C=C1)[N+](=O)[O-])C1=NC(=NC(=C1C(=O)OC)C)C1=CC=CC=C1 | C19H14ClN3O4
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | methyl 6-methyl-4-(2-methylthio-5-nitrophenyl)-2-phenyl-5-pyrimidinecarboxylate | 0.2 g | CC1=C(C(=NC(=N1)C1=CC=CC=C1)C1=C(C=CC(=C1)[N+](=O)[O-])SC)C(=O)OC | C20H17N3O4S
